US07618989B2
A mixture of 4-bromo-2-fluorobenzonitrile (10.6 g, 52.8 mmol), tributyl(1-ethoxyvinyl)tin (21 g, 58.1 mmol), and trans-dichlorobis(triphenylphosphine)palladium (II) (371 mg, 0.53 mmol) in 190 mL of dry toluene were refluxed for 2 h and then quenched with 5% HCl and stirred for 30 min. Ethyl acetate was added and the layers were separated. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 6.5 g of crude product. Purification of the product on silica gel using 5% ethyl acetate:hexane gave 4-acetyl-2-fluorobenzonitrile (1.0 g, 11%), MS (ES) m/z 164 [M+H]+.

reactant | 4-bromo-2-fluorobenzonitrile | 52.8 mmol, 10.6 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | tributyl(1-ethoxyvinyl)tin | 58.1 mmol, 21 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.53 mmol, 371 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-acetyl-2-fluorobenzonitrile | 1.0 g, 11% | C(C)(=O)C1=CC(=C(C#N)C=C1)F | C9H6FNO
